* driver_dut_core — extracted core; do not edit by hand
.subckt driver_dut_core outp outn inp inn vdd vss mgate nlp1 nlp2 em
XQ2 outn inn em vss npn13G2 we=70n le=900n nx=2
X$2 outn nlp2 vss rsil w=0.5u l=2.35u ps=0u m=1
XQ1 outp inp em vss npn13G2 we=70n le=900n nx=2
X$4 outp nlp1 vss rsil w=0.5u l=2.35u ps=0u m=1
Xesd_vdd_p vdd outp vss diodevdd_2kv m=1
Xesd_vss_p vdd outp vss diodevss_2kv m=1
Xesd_vdd_n vdd outn vss diodevdd_2kv m=1
Xesd_vss_n vdd outn vss diodevss_2kv m=1
Xclamp vdd vss nmoscl_2 m=1 pre_layout=0
Xmdiode mgate mgate vss vss sg13_lv_nmos l=1u w=392u as=133.28p ad=133.28p ps=811.2u pd=811.2u rfmode=0 pre_layout=0
Xtail em mgate vss vss sg13_lv_nmos l=1u w=783.68u as=266.4512p ad=266.4512p ps=1621.08u pd=1621.08u rfmode=0 pre_layout=0
C0 em inn 6.21516f
C1 em inp 6.23525f
C2 em mgate 36.75177f
C3 em outn 0.70411f
C4 em outp 0.68097f
C5 em vss 0.19178p
C6 inn mgate 0.62894f
C7 inn outn 0.04174f
C8 inn vss 14.3395f
C9 inp mgate 0.62812f
C10 inp outp 0.05293f
C11 inp vss 14.3599f
C12 mgate vss 0.24367p
C13 nlp1 outp 2.56425f
C14 nlp1 vss 4.85885f
C15 nlp2 outn 2.55841f
C16 nlp2 vss 4.99297f
C17 outn vss 0.14432p
C18 outp vss 0.14356p
.ends driver_dut_core
