* driver_dut_core — extracted core; do not edit by hand
.subckt driver_dut_core outp outn inp inn vdd vss mgate nlp1 nlp2 em
XQ2 outn inn em vss npn13G2 we=70n le=900n nx=2
X$2 outn nlp2 vss rsil w=0.5u l=2.35u ps=0u m=1
XQ1 outp inp em vss npn13G2 we=70n le=900n nx=2
X$4 outp nlp1 vss rsil w=0.5u l=2.35u ps=0u m=1
Xesd_vdd_p vdd outp vss diodevdd_2kv m=1
Xesd_vss_p vdd outp vss diodevss_2kv m=1
Xesd_vdd_n vdd outn vss diodevdd_2kv m=1
Xesd_vss_n vdd outn vss diodevss_2kv m=1
Xclamp vdd vss nmoscl_2 m=1 pre_layout=0
Xmdiode mgate mgate vss vss sg13_lv_nmos l=1u w=391.6u as=133.144p ad=133.144p ps=810.4u pd=810.4u rfmode=0 pre_layout=0
Xtail em mgate vss vss sg13_lv_nmos l=1u w=782.89u as=266.1826p ad=266.1826p ps=1619.5u pd=1619.5u rfmode=0 pre_layout=0
C0 em inn 6.21434f
C1 em inp 6.23445f
C2 em mgate 36.72324f
C3 em outn 0.70411f
C4 em outp 0.68097f
C5 em vss 0.19174p
C6 inn mgate 0.62841f
C7 inn outn 0.04174f
C8 inn vss 14.33846f
C9 inp mgate 0.62759f
C10 inp outp 0.05293f
C11 inp vss 14.35886f
C12 mgate vss 0.24357p
C13 nlp1 outp 3.66121f
C14 nlp1 vss 6.86618f
C15 nlp2 outn 3.65755f
C16 nlp2 vss 6.86759f
C17 outn vss 0.15302p
C18 outp vss 0.15223p
.ends driver_dut_core
